US07977358B2
B] [5-Methoxymethyl-3-methyl-1-(3-trifluoromethyl-phenyl)-1H-pyrazol-4-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone
In analogy to the procedure described in Example 18], 5-methoxymethyl-3-methyl-1-(3-trifluoromethyl-phenyl)-1H-pyrazole-4-carboxylic acid and 4-pyrrolidine-1-yl-piperidine gave the title compound in 95% yield as light brown viscous oil. MS: 451.2 (MH+).

reactant | 5-methoxymethyl-3-methyl-1-(3-trifluoromethyl-phenyl)-1H-pyrazole-4-carboxylic acid | COCC1=C(C(=NN1C1=CC(=CC=C1)C(F)(F)F)C)C(=O)O | C14H13F3N2O3
reactant | 4-pyrrolidine-1-yl-piperidine | N1(CCCC1)C1CCNCC1 | C9H18N2
product | [5-Methoxymethyl-3-methyl-1-(3-trifluoromethyl-phenyl)-1H-pyrazol-4-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone | 95% yield | COCC1=C(C(=NN1C1=CC(=CC=C1)C(F)(F)F)C)C(=O)N1CCC(CC1)N1CCCC1 | C23H29F3N4O2
